US05728712
Intermediate 7 N-(3-Hydroxy-4-methoxybenzenesulphonyl)-1,2-dihydroindole.
A solution of N-(3-methanesulphonyloxy-4-methoxybenzenesulphonyl)-1,2-dihydroindole (1 g) and saturated aqueous sodium hydroxide solution (2 ml) was heated at 85°-90° C. for 2 hours. The solvent was removed in vacuo and the residue partitioned between ethyl acetate (5 ml) and water (10 ml). The aqueous phase was acidified with 2N HCl and extracted with ethyl acetate (2×10 ml). The combined organic phases were dried over magnesium sulphate and concentrated in vacuo to yield a clear oil. Purification by column chromatography eluting with dichloromethane afforded the desired product as a white solid (0.8 g).

reactant | N-(3-methanesulphonyloxy-4-methoxybenzenesulphonyl)-1,2-dihydroindole | 1 g | CS(=O)(=O)OC=1C=C(C=CC1OC)S(=O)(=O)N1CCC2=CC=CC=C12 | C16H17NO6S2
reactant | sodium hydroxide | 2 ml | [OH-].[Na+]
product | N-(3-Hydroxy-4-methoxybenzenesulphonyl)-1,2-dihydroindole | 0.8 g | OC=1C=C(C=CC1OC)S(=O)(=O)N1CCC2=CC=CC=C12 | C15H15NO4S
